US07915288B2
A suspension of 4-bromo-6-methoxy-3-methyl-2H-isoquinolin-1-one (9.3 g, 35 mmol) in POCl3 (50 ml) is refluxed for 1 h. After cooling to room temperature, POCl3 is removed. The residue is diluted with water (50 ml) and neutralized with saturated NaHCO3. The resulting solid is filtered and dried to give 9.8 g of 4-bromo-1-chloro-6-methoxy-3-methyl-isoquinoline. 1H NMR (CDCl3) 8.17 (d, 1H), 7.43 (s, 1H), 7.25 (d, 1H), 4.01 (s, 3H), 2.80 (s, 3H).

reactant | 4-bromo-6-methoxy-3-methyl-2H-isoquinolin-1-one | 35 mmol, 9.3 g | BrC1=C(NC(C2=CC=C(C=C12)OC)=O)C | C11H10BrNO2
reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-bromo-1-chloro-6-methoxy-3-methyl-isoquinoline | 9.8 g | BrC1=C(N=C(C2=CC=C(C=C12)OC)Cl)C | C11H9BrClNO
